US09371320B2
B) methyl 4-iodo-2-methoxynicotinate
To a solution of diisopropylamine (10.4 mL) in THF (150 mL) was added 1.6M n-butyllithium hexane solution (46 mL) under argon atmosphere at −10° C., and the mixture was stirred under argon atmosphere at −10° C. for 30 min. To the reaction mixture was slowly added a solution of 2-fluoro-3-iodopyridine (15 g) in THF (100 mL) at −78° C., and the mixture was stirred under argon atmosphere at −78° C. to −60° C. for 3 hr. To the reaction mixture was slowly added methyl chloroformate (7.21 g) at −78° C., and the mixture was stirred under argon atmosphere at −78° C. for 30 min. To the reaction mixture was slowly added a solution of sodium methoxide (3.90 g) in methanol (45 mL) at −78° C., and the mixture was allowed to be warmed to room temperature, and stirred at room temperature for 1 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (10 g).

reactant | diisopropylamine | 10.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.6M, 46 mL | CCCCCC.C(CCC)[Li]
reactant | 2-fluoro-3-iodopyridine | 15 g | FC1=NC=CC=C1I | C5H3FIN
reactant | methyl chloroformate | 7.21 g | ClC(=O)OC | C2H3ClO2
reactant | sodium methoxide | 3.90 g | C[O-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | 45 mL | CO | CH4O
solvent | water | O | H2O
product | methyl 4-iodo-2-methoxynicotinate | 10 g | IC1=CC=NC(=C1C(=O)OC)OC | C8H8INO3
